US05665718
10.1 g (22 mmol) of 8-fluoro-5,6-dihydro-5-methyl-3-(3-phthalimidomethyl-1,2,4-oxadiazol-5-yl)-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one were heated to 65° in 220 ml of ethanol, whereupon 150 ml of 33% ethanolic methylamine solution were added dropwise within 100 min. After completion of the addition the solution was heated for a further 17 hrs. and then cooled in an ice bath, whereby white crystals separated. These were filtered off and dried in a vacuum. After recrystallization from ethanol there were obtained 3.05 g of 3-(3-aminomethyl)-1,2,4-oxadiazol-5-yl) -8-fluoro-5,6-dihydro-5-methyl-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one of m.p. 208°-217°. A further 2.5 g of product were obtained by chromatography on silica gel with methylene chloride/methanol 19:1, then 9:1. Total yield: 5.55 g (77%).

reactant | 8-fluoro-5,6-dihydro-5-methyl-3-(3-phthalimidomethyl-1,2,4-oxadiazol-5-yl)-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 22 mmol, 10.1 g | FC=1C=CC2=C(C(N(CC=3N2C=NC3C3=NC(=NO3)CN3C(C=2C(C3=O)=CC=CC2)=O)C)=O)C1 | C23H15FN6O4
reactant | methylamine | 150 ml | CN | CH5N
solvent | ethanol | 220 ml | C(C)O | C2H6O
product | 8-fluoro-5,6-dihydro-5-methyl-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | FC=1C=CC2=C(C(N(CC=3N2C=NC3)C)=O)C1 | C12H10FN3O
